US06114310
(A) Methyl N-(phenethyl)glycinate
A cold solution (0° C.) of glycine methyl ester hydrochloride (1.0 g, 8 mmol), methanol (25 mL), glacial acetic acid (0.8 mmol, and phenylacetaldehyde (0.481 g, 4 mmol) was treated with sodium triacetoxyborohydride (1.7 g, 8 mmol) in two portions. The reaction mixture was maintained at 0° C. for 1.5 hr, and then quenched with saturated sodium bicarbonate (15 mL). The solution was extracted with ethyl acetate. The organic phase was collected, dried over anhydrous sodium sulfate, and adsorbed onto silica gel (100 mg) and applied to a column prepacked with silica gel. The column was eluted with CH2Cl2 /MeOH (97:3, v:v) to afford titled compound (258 mg).

reactant | glycine methyl ester hydrochloride | 8 mmol, 1.0 g | Cl.COC(CN)=O
reactant | methanol | 25 mL | CO | CH4O
reactant | phenylacetaldehyde | 4 mmol, 0.481 g | C1(=CC=CC=C1)CC=O | C8H8O
reactant | sodium triacetoxyborohydride | 8 mmol, 1.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Methyl N-(phenethyl)glycinate | 258 mg | C(CC1=CC=CC=C1)NCC(=O)OC | C11H15NO2
